US07166598B2
A mixture of 2-acetylamino-2-(3-methoxy-4-methylbenzyl)-malonic acid diethyl ester (10.0 g), potassium hydroxide solution (1.88 g) in water (25 ml) and ethanol (25 ml) were stirred under reflux for 1 hour. Another potassium hydroxide solution (1.88 g) in water (10 ml) was added to the mixture and the whole was stirred under reflux for 2 hours. After being cooled to room temperature, the reaction mixture was concentrated under reduced pressure. Water (50 ml) and ethyl acetate (50 ml) were added to the resulting aqueous solution. The aqueous layer was separated and was adjusted to pH 1.5 with 6N hydrochloric acid. The solution was extracted with ethyl acetate, washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give N-acetyl-3-methoxy-4-methyl-DL-phenylalanine (7.58 g) as a viscous oil.

reactant | 2-acetylamino-2-(3-methoxy-4-methylbenzyl)-malonic acid diethyl ester | 10.0 g | C(C)OC(C(C(=O)OCC)(CC1=CC(=C(C=C1)C)OC)NC(C)=O)=O | C18H25NO6
reactant | potassium hydroxide | 1.88 g | [OH-].[K+]
reactant | potassium hydroxide | 1.88 g | [OH-].[K+]
solvent | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | N-acetyl-3-methoxy-4-methyl-DL-phenylalanine | 7.58 g | C(C)(=O)NC(CC1=CC(=C(C=C1)C)OC)C(=O)O | C13H17NO4
